US06509349B1
2-Propyl-4-chloro-3-methyl-pyridine
To a solution of propyl iodide (12.7 g) in THF (10 ml) is added lithium (0.45 g) and the reaction is allowed to stir at room temperature until complete dissolution of the lithium. 4-Chloro-3-methyl-pyridine (9.5 g) is then added and the mixture allowed to stir at 40° C. for 4 hours. After cooling at room temperature, ether is added and the organic phase washed with water. After removal of the solvent the desired product is obtained by chromatography using hexane/ether 9/1 as solvent.

reactant | propyl iodide | 12.7 g | C(CC)I | C3H7I
reactant | lithium | 0.45 g | [Li] | Li
reactant | 4-Chloro-3-methyl-pyridine | 9.5 g | ClC1=C(C=NC=C1)C | C6H6ClN
reactant | ether | CCOCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Propyl-4-chloro-3-methyl-pyridine | C(CC)C1=NC=CC(=C1C)Cl | C9H12ClN
